US07582769B2
1,1-Dicyclopentyl-3-thiazol-2-yl-urea
To a solution of 2-aminothiazole (50 mg, 0.5 mmol) in dichloromethane was added carbonyldiimidazole (81 mg, 0.5 mmol) and dimethylaminopyridine (3 mg) and the solution stirred 1 h at room temperature. Dicyclopentylamine (77 mg) was then added and the reaction stirred overnight at room temperature. The reaction mixture is then diluted with ethyl acetate (8 mL), washed successively with 10% sodiumhydrogensulphate (3 mL), water (3 mL), dried over magnesium sulphate, concentrated in vacuo, and the residue purified by flash chlomatography (eluant 7 ethyl acetate:3 heptane)

reactant | 2-aminothiazole | 0.5 mmol, 50 mg | NC=1SC=CN1 | C3H4N2S
reactant | carbonyldiimidazole | 0.5 mmol, 81 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylaminopyridine | 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Dicyclopentylamine | 77 mg | C1(CCCC1)NC1CCCC1 | C10H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-Dicyclopentyl-3-thiazol-2-yl-urea | C1(CCCC1)N(C(=O)NC=1SC=CN1)C1CCCC1 | C14H21N3OS
